US04814346
6,7-Dihydroxy-3-(4-fluorophenyl)-4H-1-benzopyran-4-one (1.2 g), dissolved in a mixture of dioxan/ethanol 4:6 (40 ml), is hydrogenated for 24 h at room temperature over palladium 5% on active charcoal (0.48 g) in the presence of a few drops of conc. sulphuric acid. After filtration of the catalyst, the filtrate is evaporated to dryness under vacuum. An oil is obtained which crystallizes to give 3,4-dihydro-6,7-dihydroxy-3-(4-fluorophenyl)-2H-1-benzopyran, m.p. 135°-137°.

reactant | 6,7-Dihydroxy-3-(4-fluorophenyl)-4H-1-benzopyran-4-one | 1.2 g | OC=1C(=CC2=C(C(C(=CO2)C2=CC=C(C=C2)F)=O)C1)O | C15H9FO4
reactant | charcoal | 0.48 g | C | CH4
solvent | dioxan ethanol | 40 ml | O1CCOCC1.C(C)O
catalyst | sulphuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
catalyst | palladium | [Pd] | Pd
product | 3,4-dihydro-6,7-dihydroxy-3-(4-fluorophenyl)-2H-1-benzopyran | OC=1C(=CC2=C(CC(CO2)C2=CC=C(C=C2)F)C1)O | C15H13FO3
